US07037909B2
4-[5,8-Dimethyl-6-(2-morpholin-4-yl-ethoxy)-9H-1,2,3a,4,9,10-hexaaza-cyclopenta[b]fluoren-3-ylmethyl]-phenol
A mixture of 4,7-dimethyl-5-(2-morpholin-4-yl-ethoxy)-1H-indole-2,3-dione (121.6 mg, 0.4 mmol) and 4-(4,5-diamino-4H-[1,2,4]triazol-3-ylmethyl)-phenol (82 mg, 0.4 mmol) in EtOH (15 mL) was heated with stirring in a pressure tube at 120° C. for 72 h. The solvent was removed and the residue was purified with a flash silica gel chromatography (CH2Cl2:MeOH:NH4OH=100:7:0.7) to give the title compound as a pink solid (50 mg, 27%).

reactant | 4,7-dimethyl-5-(2-morpholin-4-yl-ethoxy)-1H-indole-2,3-dione | 0.4 mmol, 121.6 mg | CC1=C2C(C(NC2=C(C=C1OCCN1CCOCC1)C)=O)=O | C16H20N2O4
reactant | 4-(4,5-diamino-4H-[1,2,4]triazol-3-ylmethyl)-phenol | 0.4 mmol, 82 mg | NN1C(=NN=C1N)CC1=CC=C(C=C1)O | C9H11N5O
solvent | EtOH | 15 mL | CCO | C2H6O
product | 4-[5,8-Dimethyl-6-(2-morpholin-4-yl-ethoxy)-9H-1,2,3a,4,9,10-hexaaza-cyclopenta[b]fluoren-3-ylmethyl]-phenol | 50 mg, 27% | CC1=C2C3=NN4C(N=C3NC2=C(C=C1OCCN1CCOCC1)C)=NN=C4CC4=CC=C(C=C4)O | C25H27N7O3
